US05387684
Carbon tetrachloride (40 ml) was added to 5-[3-chloro-2-[5-methyl-2H-indazol-2-yl)phenyl]-2-(triphenylmethyl)-2H-tetrazole (4.0 g, 7.23 mmol) as obtained in Reference Example 16, and the mixture was stirred. Thereto were added N-bromosuccinimide (1.42 g, 7.96 mmol), and the mixture was refluxed under heating for an hour. Thereto were added N-bromosuccinimide (1.22 g, 6.89 mmol) and azobisisobutyronitrile (57 mg, 0.345 mmol), and the mixture was refluxed under heating for 2.5 hours. After cooling, the mixture was diluted with dichloromethane (40 ml), and poured into water (40 ml). The organic layer was dried over magnesium sulfate, filtered, and concentrated. The residue was dried in vacuo. The residue thus obtained was added to a solution obtained by adding, in a different reaction vessel, sodium hydride (0.257 g, 5.88 mmol) to 2-ethyl-5,7-dimethyl-1H-imidazo[4,5-b]pyridine (1.03 g, 5.88 mmol) in DMF (39 ml) and stirring the solution for 30 minutes. The mixture was stirred at room temperature for 15 hours, concentrated, and partitioned by ethyl acetate (100 ml) and water (100 ml). The water layer was extracted with ethyl acetate (100 ml) and then with dichloromethane (100 ml). The organic layer was dried over magnesium sulfate, and then filtered. The filtrate was concentrated and subjected to flash chromatography on silica gel using a mixed solvent of hexane/ethyl acetate (2:3), whereby 0.992 g of 3-{[3-bromo-2-[3-chloro-2-(2-(triphenylmethyl)-2H-tetrazol-5-yl)phenyl]-2H-indazol-5-yl]methyl}-2-ethyl-5, 7-dimethyl-3H-imidazo[4,5-b]pyridine was obtained.

reactant | 5-[3-chloro-2-[5-methyl-2H-indazol-2-yl)phenyl]-2-(triphenylmethyl)-2H-tetrazole | 7.23 mmol, 4.0 g | ClC=1C(=C(C=CC1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1N=C2C=CC(=CC2=C1)C | C34H25ClN6
reactant | N-bromosuccinimide | 7.96 mmol, 1.42 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 6.89 mmol, 1.22 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.345 mmol, 57 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | sodium hydride | 5.88 mmol, 0.257 g | [H-].[Na+]
reactant | 2-ethyl-5,7-dimethyl-1H-imidazo[4,5-b]pyridine | 5.88 mmol, 1.03 g | C(C)C=1NC=2C(=NC(=CC2C)C)N1 | C10H13N3
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | DMF | 39 ml | CN(C)C=O | C3H7NO
solvent | water | 40 ml | O | H2O
solvent | Carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-{[3-bromo-2-[3-chloro-2-(2-(triphenylmethyl)-2H-tetrazol-5-yl)phenyl]-2H-indazol-5-yl]methyl}-2-ethyl-5, 7-dimethyl-3H-imidazo[4,5-b]pyridine | 0.992 g | BrC=1N(N=C2C=CC(=CC12)CN1C(=NC=2C1=NC(=CC2C)C)CC)C2=C(C(=CC=C2)Cl)C=2N=NN(N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C44H35BrClN9
